US05840911
1-[4-(N-Hydroxyamidino)-2.3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(4-tolyl)-imidazole dihydrochloride
A mixture of 1.20 g (5.848 mmol) of 4-(N-hydroxyamidino)-2,3-dihydro-1H-inden-1-one oxime, 1.10 g (5.844 mmol) of 1,2-diamino-4-(4-tolyl)-imidazole (Beyer H. et al., Chem. Ber. 101, 3151 (1968)) and 20 ml of 4N hydrochloric acid is heated at 110° C. for 22 hours, with stirring, and is then concentrated in vacuo to approximately half its original volume. The product that has crystallized out is filtered off, washed with isopropanol and recrystallized from a mixture of 15 ml of methanol and 30 ml of isopropanol, yielding the title compound in the form of the dihydrate, m.p. 225°-232° C. (decomp.), 1H-NMR (D2O): δ=8.04 (d, 1H); 7.74 (d, 1H); 7.55 (t, 1H); 7.30 (s, 1H); 7.26 (d, 2H); 7.07 (d, 2H); 3.17-3.23 (m, 2H); 2.98-3.04 (m, 2H); 2.07 (s, 3H).

reactant | 4-(N-hydroxyamidino)-2,3-dihydro-1H-inden-1-one oxime | 5.848 mmol, 1.20 g | ONC(=N)C1=C2CCC(C2=CC=C1)=NO | C10H11N3O2
reactant | 1,2-diamino-4-(4-tolyl)-imidazole | 5.844 mmol, 1.10 g | NN1C(=NC(=C1)C1=CC=C(C=C1)C)N | C10H12N4
reactant | hydrochloric acid | 4N, 20 ml | Cl | ClH
product | 1-[4-(N-Hydroxyamidino)-2.3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(4-tolyl)-imidazole dihydrochloride | Cl.Cl.ONC(=N)C1=C2CCC(C2=CC=C1)=NN1C(=NC(=C1)C1=CC=C(C=C1)C)N | InChI=1S/C20H20N6O.2ClH/c1-12-5-7-13(8-6-12)18-11-26(20(22)23-18)24-17-10-9-14-15(17)3-2-4-16(14)19(21)25-27;;/h2-8,11,27H,9-10H2,1H3,(H2,21,25)(H2,22,23);2*1H
